US08541411B2
Preparation of 2-methyl-6-(4-morpholinyl)-1-(8-quinolinylmethyl)-1H-benzimidazole-4-carboxylic acid
A mixture of methyl 2-methyl-6-(4-morpholinyl)-1-(8-quinolinylmethyl)-1H-benzimidazole-4-carboxylate, prepared as described in Example 34 (300 mg, 0.72 mmol) and 2 N LiOH (2.2 mL, 4.3 mmol) in THF (10 mL), was stirred at 45° C. for 16 h. It was filtered and the filter cake was dissolved in water (20 mL) and then added into formic acid to adjust the pH of the solution to 3-4. Then a filtration was performed to give the product (200 mg, 69%), as a white solid. 1H NMR (300 MHz, DMSO-d6): δ ppm 2.61 (s, 3H), 3.06 (t, 4H, J=4.8 Hz), 3.71 (t, 4H, J=4.8 Hz), 6.13 (s, 2H), 7.03 (d, 1H, J=7.5 Hz), 7.41 (s, 2H), 7.51 (t, 1H, J=7.5 Hz), 7.66 (dd, 1H, J=4.2, 8.4 Hz), 7.95 (d, 1H, J=7.5 Hz), 8.45 (dd, 1H, J=1.8, 8.4 Hz), 9.05 (dd, 1H, J=1.8, 4.2 Hz); LC-MS: m/e=403 [M+1]+

reactant | methyl 2-methyl-6-(4-morpholinyl)-1-(8-quinolinylmethyl)-1H-benzimidazole-4-carboxylate | CC1=NC2=C(N1CC=1C=CC=C3C=CC=NC13)C=C(C=C2C(=O)OC)N2CCOCC2 | C24H24N4O3
reactant | LiOH | 4.3 mmol, 2 N, 2.2 mL | [Li+].[OH-]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-methyl-6-(4-morpholinyl)-1-(8-quinolinylmethyl)-1H-benzimidazole-4-carboxylic acid | 200 mg, 69% | CC1=NC2=C(N1CC=1C=CC=C3C=CC=NC13)C=C(C=C2C(=O)O)N2CCOCC2 | C23H22N4O3
